US07304164B1
Nitration of 1-methyl-2,4-dinitroimidazole with nitric acid and sulfuric acid Fuming nitric acid (4.0 ml, excess, d. 1.544 g/ml) was added to 1-methyl-2,4-dinitroimidazole (0.40 g, 2.33 mmol) at room temperature, following by sulfuric acid (2.0 ml, fuming 30% SO3) with stirring. The reaction temperature was then brought to 105° C. within 25 minutes and kept the temperature for further 2.0 hours. The reaction mixture was poured onto ice and the product was extracted with methylene chloride (3×20 ml). The combined organic phase was washed with water (15 ml), 10% aq. NaHCO3 (15 ml), and water (15 ml) and dried over Na2SO4. Evaporation of the solvent gave 1-methyl-2,4,5-trinitroimidazole as white solid, 110 mg (21%). 1H NMR (400 MHz, acetone-d6) δ 4.37. 13C NMR (100 MHz, acetone-d6) δ 139.9, 136.1, 133.4, 37.7.

reactant | 1-methyl-2,4-dinitroimidazole | CN1C(=NC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C4H4N4O4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 1-methyl-2,4-dinitroimidazole | 2.33 mmol, 0.40 g | CN1C(=NC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C4H4N4O4
reactant | sulfuric acid | 2.0 ml | S(O)(O)(=O)=O | H2O4S
product | 1-methyl-2,4,5-trinitroimidazole | CN1C(=NC(=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C4H3N5O6
